US07153848B2
Methyl (±)-13-cyclohexyl-6,7-dihydro-6-hydroxymethyl-5H-indolo[2,1-a][2]benzazepine-10-carboxylate
A solution of borane in THF (0.18 mL of 1 N, 0.18 mmol) was added to a solution of methyl (±)-6-carboxy-13-cyclohexyl-6,7-dihydro-5H-indolo[2,1-a][2]benzazepine-10-carboxylate (50 mg, 0.12 mmol) in THF (5 mL) at 0° C. The cooling bath was removed and stirring continued at ambient temperatures for 18 hr. The solution was diluted with ethyl acetate and washed with dilute HCl (1×), brine (3×), and then dried (Na2SO4). The crude product was purified on the Shimadzu preparative liquid chromatograph. The product containing fraction was concentrated on a Speed Vac® to leave the titled compound as a white film (25 mg, 52%). ESI-MS m/z 404 (MH+); 1H NMR (300 MHz, MeOD) δ 1.14–2.19 (m, 11 H) 2.34–2.80 (m, 2 H) 2.82–3.26 (m, 2 H) 3.25–3.38 (m, 1 H) 3.44–3.82 (m, 1 H) 3.92 (s, 3 H) 4.48–4.61 (m, 1 H) 7.35–7.46 (m, 4 H) 7.68 (m, 1 H) 7.85 (m, 1 H) 8.17 (m, 1 H).

reactant | borane | B | BH3
reactant | methyl (±)-6-carboxy-13-cyclohexyl-6,7-dihydro-5H-indolo[2,1-a][2]benzazepine-10-carboxylate | 0.12 mmol, 50 mg | C(=O)(O)C1CN2C(C3=C(C1)C=CC=C3)=C(C=3C=CC(=CC32)C(=O)OC)C3CCCCC3 | C26H27NO4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 0.18 mmol, 1 N, 0.18 mL | C1CCOC1 | C4H8O
product | Methyl (±)-13-cyclohexyl-6,7-dihydro-6-hydroxymethyl-5H-indolo[2,1-a][2]benzazepine-10-carboxylate | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(CC(C2)CO)C=CC=C1)C(=O)OC | C26H29NO3
